US06156894
To a mechanically stirred solution of 200.0 g thymine (1.586 mol) in a mixture of 1.33 l water and 65 g sodium hydroxide (1.6 mol) under nitrogen atmosphere were added simultaneously a solution of 378.1 g p-toluenesulphonyl chloride (1.98 mol) in 1.0 l acetonitrile over 60 min and a solution of 95.16 g NaOH (2.38 mol) in 0.330 l water added over 65 min while cooling the reaction in a water bath from an initial temperature of 40° C. to about 35° C. The reaction was stirred an additional 50 min following completion of the additions, and then cooled to 0-5° C. The reaction mixture was then acidified by adding 242 g conc. HCl (2.45 mol) over 10 min. The reaction mixture was stirred an additional 20 min at 0-5° C. followed by vacuum filtration. The solid was vacuum dried at 55° C. overnight. 433.1 g 1-tosylthymine (97% yield, white crystals) was obtained.

reactant | thymine | 1.586 mol, 200.0 g | N1C(=O)NC(=O)C(C)=C1 | C5H6N2O2
reactant | sodium hydroxide | 1.6 mol, 65 g | [OH-].[Na+]
reactant | p-toluenesulphonyl chloride | 1.98 mol, 378.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | NaOH | 2.38 mol, 95.16 g | [OH-].[Na+]
reactant | HCl | 2.45 mol, 242 g | Cl | ClH
solvent | water | 1.33 l | O | H2O
solvent | acetonitrile | 1.0 l | C(C)#N | C2H3N
solvent | water | 0.330 l | O | H2O
product | 1-tosylthymine | 433.1 g, 97% yield | S(=O)(=O)(C1=CC=C(C)C=C1)N1C(=O)NC(=O)C(C)=C1 | C12H12N2O4S
